US04279902
C. N,N-Dipropyl-2-[[tetrahydro-5-[(oxiranylmethoxy)methyl]-2-furanyl]methoxy]acetamide
5.0 g of N,N-dipropyl-2-[[tetrahydro-5-[(2-propenyloxy)methyl]-2-furanyl]methoxy]acetamide (0.016 mole) is dissolved in 300 ml of methylene chloride and 3.20 g of m-chlorobenzoic acid (1 equivalent @ 85% tech) is added at room temperature. The mixture is then stirred at 30° for 72 hours under nitrogen. The precipitated m-chlorobenzoic acid is removed via filtration. The methylene chloride mixture is then washed with 2×200 ml portions of saturated potassium carbonate solution and dried over anhydrous sodium sulfate. The methylene chloride is removed in vacuo yielding 4.86 g (92%) of the above compound as a pale yellow liquid.

reactant | N,N-dipropyl-2-[[tetrahydro-5-[(2-propenyloxy)methyl]-2-furanyl]methoxy]acetamide | 0.016 mole, 5.0 g | C(CC)N(C(COCC1OC(CC1)COCC=C)=O)CCC | C17H31NO4
reactant | m-chlorobenzoic acid | 3.20 g, 1 equivalent | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N,N-Dipropyl-2-[[tetrahydro-5-[(oxiranylmethoxy)methyl]-2-furanyl]methoxy]acetamide | 4.86 g, 92% | C(CC)N(C(COCC1OC(CC1)COCC1OC1)=O)CCC | C17H31NO5
